US05863929
C) Preparation of 3-amino-1,2-benzisoxazole-5-carbonitrile
To a stirring solution of potassium t-butoxide (8.4 g, 75 mmol) in THF (100 mL) was added acetone oxime (5.5 g, 75 mmol). After stirring for 30 min, a solution of 2-fluoroterephthalonitrile (10 g, 68 mmol) in THF (50 mL) was added; and stirring was continued for an additional 2 hr. Saturated aqueous ammonium chloride (100 mL) was added and the solvents were removed in vacuo. The residue was partitioned between EtOAc and brine. The layers were separated and the organic phase was washed once with brine, dried (MgSO4), filtered and concentrated. This crude solid was suspended in a solution of EtOH (150 mL), concentrated HCl (50 mL) and water (100 mL). This mixture was refluxed for 2 h. After cooling to room temperature, the solvents were removed in vacuo. The residue was treated with saturated aqueous sodium bicarbonate (200 mL), and the product was extracted by washing the aqueous layer three times with EtOAc. This organic solution was washed once with brine, dried (MgSO4), filtered and concentrated to give a pink colored solid (9.4 g, 86%).

reactant | potassium t-butoxide | 75 mmol, 8.4 g | CC(C)([O-])C.[K+]
reactant | acetone oxime | 75 mmol, 5.5 g | CC(C)=NO | C3H7NO
reactant | 2-fluoroterephthalonitrile | 68 mmol, 10 g | FC1=C(C#N)C=CC(=C1)C#N | C8H3FN2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-amino-1,2-benzisoxazole-5-carbonitrile | 9.4 g, 86% | NC1=NOC2=C1C=C(C=C2)C#N | C8H5N3O
